US06599902B2
Synthesis of 3-[1-{4-[(Cyclopropyl-methyl-amino)-methyl]-3,5-dimethyl-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-5-[2-(2-morpholin-4-yl-ethoxy)-phenylmethanesulfonyl]-1,3-dihydro-indol-2-one
5-[2-(2-Morpholin-4-yl-ethoxy)-phenylmethanesulfonyl]-1,3-dihydro-indol-2-one (39 mg, 0.094 mmol) was condensed with 4-[(cyclopropyl-methyl-amino)-methyl]-3,5-dimethyl-1H-pyrrole-2-carbaldehyde (21 mg, 0.1 mmol) and piperidine (1 drop) in ethanol (1.5 mL) at rt for 48 hours. The solvent was removed and the residue was purified on a silica gel column to give 26 mg (46%) of the titled compound.

reactant | 5-[2-(2-Morpholin-4-yl-ethoxy)-phenylmethanesulfonyl]-1,3-dihydro-indol-2-one | 0.094 mmol, 39 mg | N1(CCOCC1)CCOC1=C(C=CC=C1)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C21H24N2O5S
reactant | 4-[(cyclopropyl-methyl-amino)-methyl]-3,5-dimethyl-1H-pyrrole-2-carbaldehyde | 0.1 mmol, 21 mg | C1(CC1)N(C)CC=1C(=C(NC1C)C=O)C | C12H18N2O
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | 3-[1-{4-[(Cyclopropyl-methyl-amino)-methyl]-3,5-dimethyl-1H-pyrrol-2-yl}-meth-(Z)-ylidene]-5-[2-(2-morpholin-4-yl-ethoxy)-phenylmethanesulfonyl]-1,3-dihydro-indol-2-one | 26 mg, 46% | C1(CC1)N(C)CC=1C(=C(NC1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1)OCCN1CCOCC1)=O)C | C33H40N4O5S
